US05506252
To a cooled solution of 3-methoxybenzonitrile (10 g, 75 mmol) in acetic anhydride (150 ml) was added 70% nitric acid (60 mL) at a rate that kept the reaction mixture below 50° C. After 1 h the reaction mixture was poured onto ice (400 cc) and extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried (Na2SO4). Concentration under reduced pressure and chromatography with ethyl acetate/hexanes gave 2.69 g (20%) of 3-methoxy-4-nitrobenzonitrile: 1H NMR (DMSO-d6): δ 8.04 (d, 1H), 7.93 (d, 1H), 7.61 (dd, 1H), 3.97 (s, 3H). 3-Methoxy-4-nitrobenzonitrile (2.6 g, 14.6 mmol) was suspended in ethanol(100 mL) and added to a mixture of 5% platinum on carbon (250 mg) in ethanol (150 mL). The reaction mixture was stirred under a hydrogen gas atmosphere. After 24 h the reaction was filtered, concentrated, and chromatographed (ethyl acetate/hexanes, 25/75) to yield 1.3 g (60%) of 4-amino-3-methoxybenzonitrile: 1H NMR (DMSO-d6): δ 7.1 (m, 2H), 6.65 (d, 1H), 5.77 (br s, 2H), 3.79 (s, 3H). 4-Amino-3-methoxybenzonitrile (1.3 g, 8.77 mmol) and 3,4-diethoxy-3-cyclobutene-1,2-dione (1.5 g, 8.82 mmol) in ethanol (50 mL) was heated in an oil bath at 110°-115° C. for 3 days. The reaction mixture was filtered hot, and the filtrate was reduced to half its volume. Filtration gave 0.58 g (24%) of a yellow solid: mp 159°-161° C.; 1H NMR (DMSO-d6): δ 10.42 (br s, 1H), 7.54 (d, 1H), 7.44 (dd, 1H), 7.39 (d, 1H), 4.70 (q, 2H), 3.86 (s, 3H), 1.36 (t, 3H). IR (KBr): 3413, 3026, 2650, 2576, 2439, 1719, 1630, 1548 cm-1 ; MS (m/z) 272 (M+).

reactant | 3-Methoxy-4-nitrobenzonitrile | 14.6 mmol, 2.6 g | COC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H6N2O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | platinum on carbon | 250 mg | [Pt] | Pt
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 4-amino-3-methoxybenzonitrile | 1.3 g, 60% | NC1=C(C=C(C#N)C=C1)OC | C8H8N2O
